US07411072B2
5-(3-Methyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Add 5-(3-methyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.18 g, 0.61 mmol), to a mixture of 10% Pd/C (0.045 g) suspended in absolute ethanol (4.0 mL) and ethyl acetate (2.0 mL) and hydrogenate under a balloon of hydrogen at room temperature and pressure. Stir for 17 h, remove the catalyst via filtration through a pad of Celite. Evaporate the filtrate and pass through a plug of silica gel equilibrated with hexanes. Concentrated the filtrate to give the title product. MS (m/e): 298 (M+). HPLC (ISO80-10M) t=1.00 (98%).

reactant | 5-(3-methyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.61 mmol, 0.18 g | CC=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C23H20
reactant | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.045 g | [Pd] | Pd
product | 5-(3-Methyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | CC=1C=C(CC2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C23H22
